US08034938B2
Chloroacetyl chloride (14.8 mL, 186 mol) was added to a mixture of (2R)-2-[(3-aminoquinolin-4-yl)amino]-3-(benzyloxy)propan-1-ol (28 g, 86 mmol) and triethylamine (12.0 mL, 86.5 mmol) dissolved in 432 mL of CH2Cl2 at 0° C. The reaction was stirred for 1 hour at ambient temperature. The solvent was removed under reduced pressure and the resulting dark, oily solid was treated with acetic acid (400 mL). The mixture was heated to reflux for 6 hours. The reaction was cooled to ambient temperature and the acetic acid was removed under reduced pressure. The resulting dark brown oil was concentrated from toluene (2×) and then from ethanol to afford a dark brown oil. The oil was dissolved in a mixture of ethanol (400 mL) and water (60 mL) and treated with potassium carbonate (60 g). The reaction mixture was heated at 60° C. and stirred for 1 hour. The reaction was then cooled to ambient temperature and filtered. The filtrate was concentrated under reduced pressure to afford a dark oil. Chromatography (SiO2, 0-30% CMA/CHCl3) gave 17 g of (11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline as a light brown oil.

reactant | Chloroacetyl chloride | 186 mol, 14.8 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | (2R)-2-[(3-aminoquinolin-4-yl)amino]-3-(benzyloxy)propan-1-ol | 86 mmol, 28 g | NC=1C=NC2=CC=CC=C2C1N[C@H](CO)COCC1=CC=CC=C1 | C19H21N3O2
reactant | triethylamine | 86.5 mmol, 12.0 mL | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
solvent | CH2Cl2 | 432 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | water | 60 mL | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 17 g | C(C1=CC=CC=C1)OC[C@H]1COCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C21H19N3O2
